US08497278B2
Step 3: N1-(6-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)pyrimidin-4-yl)N2,N2-dimethylethane-1,2-diamine
A mixture of 100 mg of 2-(4-chlorophenyl)-3-((6-chloropyrimidin-4-yl)methyl)imidazo[1,2-a]pyridine (0.282 mmol, 1 eq) in 1 mL of N,N-dimethylethane-1,2-diamine (excess) in a sealed tube was heated to 95° C. for 2 h. The solution was then diluted with EtOAc, washed with water, dried on MgSO4, filtered and concentrated. The crude was purified by silica gel chromatography (MeOH:NH4OH (95:5)/EtOAc, 0 to 15%). The product was finally washed with ether (33 mg, 29%) m/e+=407 (M+H+). 1H-NMR (400 MHz, CDCl3, δ): 8.55 (s, 1H), 7.90 (d, 1H, D, J=6.6 Hz), 7.73 (d, 2H, D, J=8.4 Hz), 7.67 (d, 1H, D, J=9.2 Hz), 7.42 (d, 2H, D, J=8.8 Hz), 7.25 (t, 1H, D, J=7.7 Hz), 6.81 (t, 1H, D, 7.7 Hz), 5.86 (s, 1H), 4.38 (s, 2H), 2.43 (m, 2H), 2.17 (s, 6H).

reactant | 2-(4-chlorophenyl)-3-((6-chloropyrimidin-4-yl)methyl)imidazo[1,2-a]pyridine | 0.282 mmol, 100 mg, 1 eq | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CC1=NC=NC(=C1)Cl | C18H12Cl2N4
solvent | N,N-dimethylethane-1,2-diamine | 1 mL | CN(CCN)C | C4H12N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N1-(6-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)pyrimidin-4-yl)N2,N2-dimethylethane-1,2-diamine | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CC1=CC(=NC=N1)NCCN(C)C | C22H23ClN6
